US05462954
3-(2-(3-(2-Butyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionic acid
Ethyl 3-(2-(3-(2-butyl-4-(4-fluorophenyl)-5-methoxyphenoxy)propoxy)phenyl)propionate in dichloromethane was treated with 2 equivalents of boron tribromide at -75° C. The mixture was stirred without cooling for 18 hours, washed with water, dried, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with dichloromethane/methanol to provide the desired title product in 56% yield. NMR.

reactant | Ethyl 3-(2-(3-(2-butyl-4-(4-fluorophenyl)-5-methoxyphenoxy)propoxy)phenyl)propionate | C(CCC)C1=C(OCCCOC2=C(C=CC=C2)CCC(=O)OCC)C=C(C(=C1)C1=CC=C(C=C1)F)OC | C31H37FO5
reactant | boron tribromide | 2 equivalents | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2-(3-(2-Butyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionic acid | 56% yield | C(CCC)C1=C(OCCCOC2=C(C=CC=C2)CCC(=O)O)C=C(C(=C1)C1=CC=C(C=C1)F)O | C28H31FO5
